US04859684
(a-3) A mixture of 3.4 parts of 4-[(1H-imidazol-1-yl)phenylmethyl]-2-nitrobenzenamine, 1 part of a solution of thiophene in methanol 4%, 80 parts of methanol and 80 parts of methanol saturated with ammonia was hydrogenated at normal pressure and at room temperature with 2 parts of platinum-on-charcoal catalyst 5%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated, yielding 2.64 parts (99%) of 4-[(1H-imidazol-1-yl)-phenylmethyl]-1,2-benzenediamine as a residue (int. 126), or alternatively

reactant | 4-[(1H-imidazol-1-yl)phenylmethyl]-2-nitrobenzenamine | N1(C=NC=C1)C(C1=CC(=C(C=C1)N)[N+](=O)[O-])C1=CC=CC=C1 | C16H14N4O2
reactant | thiophene | S1C=CC=C1 | C4H4S
reactant | ammonia | N | H3N
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | platinum-on-charcoal | [Pt] | Pt
product | 4-[(1H-imidazol-1-yl)-phenylmethyl]-1,2-benzenediamine | 99% | N1(C=NC=C1)C(C=1C=C(C(=CC1)N)N)C1=CC=CC=C1 | C16H16N4
